US07435837B2
To a solution of 2-chloro-5-trifluoromethyl-phenol (10.00 g, 0.05 mol) in N,N-dimethylformamide (500 mL) was added potassium carbonate (28.12 g, 0.209 mol) followed by allyl bromide (7.38 g, 0.061 mol) and the reaction was allowed to stir at room temperature for 12 h. The reaction mixture was diluted with water (500 mL) to dissolve any solids and extracted with ethyl acetate (3×250 mL). The combined organic layers were washed with water (4×500 mL), saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent removed in vacuo to give 2-(allyloxy)-1-chloro-4-(trifluoromethyl)benzene as a colorless oil. The oil was re-dissolved in mesitylene (35 mL) and heated at reflux for 12 h. Removal of the solvent in vacuo provided a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:8) provided 9.6 g (96%) of 2-allyl-6-chloro-3-(trifluoromethyl)phenol as a amber oil. Rf=0.66 (silica, ethyl acetate:hexanes 1:4); 1H NMR (DMSO-d6) δH 9.84 (s, 1H); 7.43 (d, 2H); 7.16 (d, 1H); 5.84 (m, 1H); 4.95 (d, 1H); 4.89 (d, 1H); 3.46 (d, 2H).

reactant | 2-chloro-5-trifluoromethyl-phenol | 0.05 mol, 10.00 g | ClC1=C(C=C(C=C1)C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 0.209 mol, 28.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.061 mol, 7.38 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | 2-(allyloxy)-1-chloro-4-(trifluoromethyl)benzene | C(C=C)OC1=C(C=CC(=C1)C(F)(F)F)Cl | C10H8ClF3O
